US07625880B2
To a glass scintillation vial was added 2-(4-amino-2-cyano-3-methylamino-phenyl)-2-methyl-3-oxo-butyric acid ethyl ester (0.247 g, 0.854 mmol), followed by THF (5 mL) and a magnetic stir bar. To the resulting solution was added 4-fluoro-1-isothiocyanato-2-methyl-benzene (0.191 g, 1.14 mmol) and the solution was stirred at room temperature for 48 h. To the solution was then added mercuric oxide (0.222 g, 1.02 mmol), and stirring was continued at room temperature for 24 h. The brown suspension was then filtered through a ½ inch thick pad of silica, washed with THF, and concentrated to dryness. The resulting deep red solid was further purified by silica gel chromatography, eluting with ethyl acetate:hexane (0% -100%) to provide 2-[4-cyano-2-(4-fluoro-2-methyl-phenylamino)-3-methyl-3H-benzoimidazol-5-yl]-2-methyl-3-oxo-butyric acid ethyl ester (0.204 g, 56%) as a deep red solid. ESMS (m/z): (M+1)+ found, 423.

reactant | 2-(4-amino-2-cyano-3-methylamino-phenyl)-2-methyl-3-oxo-butyric acid ethyl ester | 0.854 mmol, 0.247 g | C(C)OC(C(C(C)=O)(C)C1=C(C(=C(C=C1)N)NC)C#N)=O | C15H19N3O3
reactant | 4-fluoro-1-isothiocyanato-2-methyl-benzene | 1.14 mmol, 0.191 g | FC1=CC(=C(C=C1)N=C=S)C | C8H6FNS
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-[4-cyano-2-(4-fluoro-2-methyl-phenylamino)-3-methyl-3H-benzoimidazol-5-yl]-2-methyl-3-oxo-butyric acid ethyl ester | 0.204 g, 56% | C(C)OC(C(C(C)=O)(C)C1=C(C2=C(N=C(N2C)NC2=C(C=C(C=C2)F)C)C=C1)C#N)=O | C23H23FN4O3
